US07273868B2
A mixture of the compound (prepared in the above (1)) 500 mg, 3-chloro-4-methoxybenzylamine 638 mg, potassium carbonate 817 mg, copper bromide 313 mg and 1-methyl-2-pyrrolidinone 10 ml is stirred at 120° C. for 2.5 hours. After cooling to room temperature thereto are added ethyl acetate and 1 N hydrochloric acid. The organic layer is separated, washed with water (twice) and brine, and dried over sodium sulfate. After removal of sodium sulfate, the filtrate is concentrated in vacuo, and the residue is purified with column chromatography (silica gel 30 g, solvent; chloroform→chloroform:methanol=70:1) to give 2-(3-chloro-4-methoxybenzylamino)-6-chloronicotinic acid as colorless crystals, 471 mg. mp 184-185.5° C., MS(m/z): 325(M−H)−

reactant | 3-chloro-4-methoxybenzylamine | 638 mg | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | potassium carbonate | 817 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | copper bromide | 313 mg | [Cu](Br)Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-chloro-4-methoxybenzylamino)-6-chloronicotinic acid | ClC=1C=C(CNC2=C(C(=O)O)C=CC(=N2)Cl)C=CC1OC | C14H12Cl2N2O3
